US07709509B2
1.1 g [4-Butyl-2-(4-trifluoromethyl-phenyl)-thiazol-5-yl]-acetonitrile were dissolved in a mixture of 1 ml water and 6 ml isopropanol. 1.36 g Sodium hydroxide were added and the mixture heated to 100° C. After three hours the cooled reaction mixture was neutralized with concentrated hydrochloric acid and extracted three times with portions of 50 ml ethyl acetate. The combined organic extracts were dried over MgSO4 and the solvent was removed in vacuo to provide 1.15 g crude [4-Butyl-2-(4-trifluoromethyl-phenyl)-thiazol-5-yl]-acetic acid as brown oil. This material was used without purification.

reactant | [4-Butyl-2-(4-trifluoromethyl-phenyl)-thiazol-5-yl]-acetonitrile | 1.1 g | C(CCC)C=1N=C(SC1CC#N)C1=CC=C(C=C1)C(F)(F)F | C16H15F3N2S
reactant | Sodium hydroxide | 1.36 g | [OH-].[Na+]
reactant | hydrochloric acid | Cl | ClH
reactant | water | 1 ml | O | H2O
solvent | isopropanol | 6 ml | C(C)(C)O | C3H8O
product | [4-Butyl-2-(4-trifluoromethyl-phenyl)-thiazol-5-yl]-acetic acid | 1.15 g | C(CCC)C=1N=C(SC1CC(=O)O)C1=CC=C(C=C1)C(F)(F)F | C16H16F3NO2S
